US07947694B2
A solution of procainamide hydrochloride (2.5 g) in H2O was treated with 2M aqueous Na2CO3 solution and extracted with EtOAc. The organic phase was washed (2 M aqueous Na2CO3 soln.), dried (Na2SO4), filtered and concentrated to give procainamide (2.28 g) as clear oil. A mixture of the intermediate 5 (100 mg, 0.35 mmol) and Cs2CO3 (174 mg, 0.53 mmol) was treated with a solution of procainamide (125 mg, 0.53 mmol) in dry DMSO (1.2 ml). The mixture was stirred at 100° C. for 5 h, followed by a normal workup (EtOAc, saturated aqueous NaHCO3 solution, saturated aqueous NaCl soln.; Na2SO4). Flash chromatography (eluent: DCM/MeOH gradient then DCM/MeOH gradient containing 1% conc. aqueous NH3 solution) and further purification by preparative TLC (eluent: DCM/MeOH containing 1% concentrated aqueous NH3 solution) gave 20 mg (12.8%) of compound 6.

reactant | procainamide hydrochloride | 2.5 g | CCN(CC)CCNC(=O)C=1C=CC(=CC1)N.Cl
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | O | H2O
product | procainamide | 2.28 g | CCN(CC)CCNC(=O)C=1C=CC(=CC1)N | C13H21N3O
